US09078444B2
To a solution of 4-[3-(3,5-Dichloro-phenyl)-4,4,4-trifluoro-3-mercapto-butyryl]-2-methyl-benzoic acid tert-butyl ester (1.875 g) in tetrahydrofuran (6 mL) was added a solution of Hydroxylamine-O-sulfonic acid (2 equiv.) in a solution of potassium hydroxide (1.2 g in 75 mL of water). After stirring at room temperature for 30 minutes, the mixture was quenched with a solution of hydrochloric acid (1N), extracted with ethyl acetate and washed with brine. The collected organic phases were dried over magnesium sulfate, filtered and the filtrate was evaporated under vacuo. The residue was purified by chromatography on silica gel (eluent: cyclohexane/dichloromethane) to give 4-[5-(3,5-Dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isothiazol-3-yl]-2-methyl-benzoic acid tert-butyl ester (881 mg)

reactant | 4-[3-(3,5-Dichloro-phenyl)-4,4,4-trifluoro-3-mercapto-butyryl]-2-methyl-benzoic acid tert-butyl ester | 1.875 g | C(C)(C)(C)OC(C1=C(C=C(C=C1)C(CC(C(F)(F)F)(S)C1=CC(=CC(=C1)Cl)Cl)=O)C)=O | C22H21Cl2F3O3S
reactant | Hydroxylamine-O-sulfonic acid | 2 equiv. | NOS(=O)(=O)O | H3NO4S
reactant | potassium hydroxide | 75 mL, 1.2 g | [OH-].[K+]
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
product | 4-[5-(3,5-Dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isothiazol-3-yl]-2-methyl-benzoic acid tert-butyl ester | 881 mg | C(C)(C)(C)OC(C1=C(C=C(C=C1)C1=NSC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)C)=O | C22H20Cl2F3NO2S
